US05834454
To a solution of ethyl 7-nitro-1H-indole-2-carboxylate (2.00 g, 8.45 mmol) in N,N-dimethylformamide (50 ml) was added 60% sodium hydride (0.34 g, 8.54 mmol), and the reaction mixture was stirred at room temperature until it became transparent. Then, ethyl bromoacetate (1.43 g, 8.54 mmol) was added and the resulting mixture was stirred at 50°-60° C. for 4 hours. The reaction mixture was cooled to room temperature and poured into ice water, followed by extraction with ethyl acetate (three times). The organic layer was washed with water and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the resulting residue was purified by a silica gel column chromatography (eluent: ethyl acetate/n-hexane=5/95) to obtain ethyl 1-ethoxycarbonylmethyl-7-nitro-1H-indole-2-carboxylate (2.11 g).

reactant | ethyl 7-nitro-1H-indole-2-carboxylate | 8.45 mmol, 2.00 g | [N+](=O)([O-])C=1C=CC=C2C=C(NC12)C(=O)OCC | C11H10N2O4
reactant | sodium hydride | 8.54 mmol, 0.34 g | [H-].[Na+]
reactant | ethyl bromoacetate | 8.54 mmol, 1.43 g | BrCC(=O)OCC | C4H7BrO2
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | ethyl 1-ethoxycarbonylmethyl-7-nitro-1H-indole-2-carboxylate | 2.11 g | C(C)OC(=O)CN1C(=CC2=CC=CC(=C12)[N+](=O)[O-])C(=O)OCC | C15H16N2O6
